US08071592B2
(b) 7-Fluoro-5-nitro-2,3-dihydro-1,4-benzodioxin
A mixture of 5-fluoro-3-nitro-1,2-benzenediol (6.55 g, 37.9 mmol), anhydrous potassium carbonate (21 g, 151.6 mmol) and 1,2-dibromoethane (8.2 mL) in DMF (70 ml) was heated at 80° C. under argon for 5 h. The reaction was cooled to rt, water (200 ml) added and the aqueous phase extracted with ethyl acetate (3×200 ml). The organics were washed with brine, dried, filtered and evaporated to afford the desired compound (6.96 g, 93%).

reactant | 5-fluoro-3-nitro-1,2-benzenediol | 37.9 mmol, 6.55 g | FC1=CC(=C(C(=C1)O)O)[N+](=O)[O-] | C6H4FNO4
reactant | potassium carbonate | 151.6 mmol, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 8.2 mL | BrCCBr | C2H4Br2
reactant | water | 200 ml | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 7-Fluoro-5-nitro-2,3-dihydro-1,4-benzodioxin | 6.96 g, 93% | FC=1C=C(C2=C(OCCO2)C1)[N+](=O)[O-] | C8H6FNO4
